US07601717B2
a.) {1-[2-Amino-6-(1,2-dihydroxy-propyl)-4-oxo-4,6,7,8-tetrahydro-1H-pteridine-5-carbonyl]-2-methyl-propyl}-carbamic acid tert-butyl ester
To a stirred solution of N-Boc-L-Valine (4.56 g, 21 mmol) in DCM (15 ml) at 0° C. was added a solution of DCC (2.17 g, 10.5 mmol) in DCM (10 ml). The resulting solution was stirred for 1 h after which a white precipitate formed. The white solid was filtered and filtrate added to a stirred solution of 2-amino-6-(1,2-dihydroxy-propyl)-5,6,7,8-tetrahydro-1H-pteridin-4-one dihydrochloride (3.0 g, 9.55 mmol) dissolved in pyridine (80 mL). The mixture was stirred at room temperature under an atmosphere of nitrogen for 1.5 h. The reaction mixture was quenched by addition of methanol (20 ml). The solvent was evaporated in vacuo and the residue purified by preparative RP-HPLC to give the sub-title product as a tan solid (3.2 g, 76%). MS: ESI (positive): 441 (M+H).

reactant | N-Boc-L-Valine | 21 mmol, 4.56 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | DCC | 10.5 mmol, 2.17 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 2-amino-6-(1,2-dihydroxy-propyl)-5,6,7,8-tetrahydro-1H-pteridin-4-one dihydrochloride | 9.55 mmol, 3.0 g | Cl.Cl.NC=1NC=2NCC(NC2C(N1)=O)C(C(C)O)O
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
product | {1-[2-Amino-6-(1,2-dihydroxy-propyl)-4-oxo-4,6,7,8-tetrahydro-1H-pteridine-5-carbonyl]-2-methyl-propyl}-carbamic acid tert-butyl ester | 3.2 g, 76% | C(C)(C)(C)OC(NC(C(C)C)C(=O)N1C=2C(N=C(NC2NCC1C(C(C)O)O)N)=O)=O | C19H32N6O6
